US09193693B2
Step 1. Butyl 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv), azepane (470 mg, 4.75 mmol, 10.00 equiv), butan-1-ol (2 mL). The resulting solution was stirred for overnight at 110° C. in an oil bath. The resulting mixture was concentrated under vacuum. This resulted in 150 mg (crude) of butyl 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | azepane | 4.75 mmol, 470 mg, 10.00 equiv | N1CCCCCC1 | C6H13N
reactant | butan-1-ol | 2 mL | C(CCC)O | C4H10O
product | Butyl 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OCCCC)C1=CC=C(C=C1)F | C25H28FN3O2
